US06197962B1
First, 10.16 g (145 mmol) of crotonaldehyde and 10.09 g (60.4 mmol) of benzenesulfonyl cyanide were introduced to the same reaction vessel as in Example 1. Toluene (15 ml) were added as the solvent, and the mixture was heated under reflux for 15 hours while agitating at an internal temperature of 110° C. in a nitrogen atmosphere, separating and removing water that was produced. After this solution was cooled to room temperature, the low-boiling components, such as solvent, etc., were removed under reduced pressure and the resulting concentrate was cooled in an ice bath to precipitate crystals. The crystals were filtered with a glass filter and washed with 10 ml of toluene that had been cooled to 5° C. or lower. Then the crystals were dried in vacuo for 2 hours to give 9.11 g of 2-benzenesulfonyl-pyridine as colorless crystals (purity of 90%, yield of 62% based on benzenesulfonyl cyanide).

reactant | crotonaldehyde | 145 mmol, 10.16 g | C(\C=C\C)=O | C4H6O
reactant | benzenesulfonyl cyanide | 60.4 mmol, 10.09 g | C1(=CC=CC=C1)S(=O)(=O)C#N | C7H5NO2S
solvent | Toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 2-benzenesulfonyl-pyridine | 9.11 g, yield of 62% | C1(=CC=CC=C1)S(=O)(=O)C1=NC=CC=C1 | C11H9NO2S
